US07994163B2
6-Bromomethyl-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine
Combine 3-tert-butoxycarbonyl-7-chloro-6-chloromethyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine (3.17 g, 8.14 mmol) and lithium bromide (0.98 g, 11.3 mmol) in anhydrous THF (60 mL) and stir at room temperature for 1 h. Concentrate in vacuo and partition the residue between dichloromethane/water. Dry the organic phase over Na2SO4, filter and concentrate in vacuo. Purify the crude mixture by chromatography on silica gel eluting with hexane/EtOAc (1:0 and 10:1) to obtain the title compound as a white solid (2.6 g, 85%). MS (APCI+) m/z: 274 (M-Boc+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-chloromethyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 8.14 mmol, 3.17 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)CCl | C16H21Cl2NO2
reactant | lithium bromide | 11.3 mmol, 0.98 g | [Br-].[Li+]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 6-Bromomethyl-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 2.6 g, 85% | BrCC1=C(C=CC=2CCN(CCC21)C(=O)OC(C)(C)C)Cl | C16H21BrClNO2
